US04642313
1.5 g of ethyl 2-[2-(4-chlorophenyl)-5-(3-furyl)-4-oxazolyl]acetate, 40 ml of methanol, 5 ml of water and 1.5 g of potassium hydroxide are treated in the same manner as described in Example 16. 1.2 g of 2-[2-(4-chlorophenyl)-5-(3-furyl)-4-oxazolyl]acetic acid are thereby obtained. Yield: 87.6%

reactant | ethyl 2-[2-(4-chlorophenyl)-5-(3-furyl)-4-oxazolyl]acetate | 1.5 g | ClC1=CC=C(C=C1)C=1OC(=C(N1)CC(=O)OCC)C1=COC=C1 | C17H14ClNO4
reactant | methanol | 40 ml | CO | CH4O
reactant | potassium hydroxide | 1.5 g | [OH-].[K+]
solvent | water | 5 ml | O | H2O
product | 2-[2-(4-chlorophenyl)-5-(3-furyl)-4-oxazolyl]acetic acid | 1.2 g, Yield: 87.6% | ClC1=CC=C(C=C1)C=1OC(=C(N1)CC(=O)O)C1=COC=C1 | C15H10ClNO4
